US07074817B2
1-Benzyl-7-(3-chloro-4-fluorophenyl)-1H-indole
1-Benzyl-7-(3-chloro-4-fluorophenyl)-1H-indole was prepared by coupling 1-benzyl-7-bromo-1H-indole (0.691 g, 2.41 mmol), and 3-chloro-4-fluorophenylboronic acid (0.538 g, 3.09 mmol), using [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.0628 g, 0.0769 mmol), and potassium carbonate (0.502 g, 3.63 mmol) in dioxane (18 mL) and water (1.8 mL) following the procedure described in Step 1 of Example 11. Purification by HPLC using 1.5% ethyl acetate in hexane as the mobile phase furnished the title compound as a clear gum (0.189 g, 23%). 1HNMR (300 MHz, DMSO-d6): δ 7.65 (d, 1H, J=7.5 Hz), 7.5 (s, 1H), 7.3 (t, 1H, J=8.3 Hz), 7.05-7.2 (m, 6H), 6.85 (d, 1H, J=7.5 Hz), 6.65 (d, 1H, J=3.8 Hz), 6.3-6.4 (m, 2H), and 4.95-5.2 ppm (m, 2H).

reactant | 1-benzyl-7-bromo-1H-indole | 2.41 mmol, 0.691 g | C(C1=CC=CC=C1)N1C=CC2=CC=CC(=C12)Br | C15H12BrN
reactant | 3-chloro-4-fluorophenylboronic acid | 3.09 mmol, 0.538 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | dichloromethane | 0.0769 mmol, 0.0628 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 3.63 mmol, 0.502 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.8 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Benzyl-7-(3-chloro-4-fluorophenyl)-1H-indole | 0.189 g, 23% | C(C1=CC=CC=C1)N1C=CC2=CC=CC(=C12)C1=CC(=C(C=C1)F)Cl | C21H15ClFN
